US07244851B2
5-amino-1-(3′-nitrophenyl)-4-cyanopyrazole (559 mg, 2.44 mmol) and phosphoric acid (86%, 6 ml) were refluxed at 170° C. for 15 h. The reaction was cooled to room temperature and neutralized with ammonium hydroxide. The organics were extracted three times with diethyl ether (total 40 ml), washed with brine, and dried over magnesium sulfate. Removal of solvent gave 5-amino-1-(3′-nitrophenyl)-pyrazole as a yellow powder (398 mg, 80% yield).

reactant | 5-amino-1-(3′-nitrophenyl)-4-cyanopyrazole | 2.44 mmol, 559 mg | NC1=C(C=NN1C1=CC(=CC=C1)[N+](=O)[O-])C#N | C10H7N5O2
reactant | phosphoric acid | 6 ml | P(O)(O)(O)=O | H3O4P
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-amino-1-(3′-nitrophenyl)-pyrazole | 398 mg, 80% yield | NC1=CC=NN1C1=CC(=CC=C1)[N+](=O)[O-] | C9H8N4O2
